US05620959
Preparation of Ethyl 3-(1-(Tert-Butoxycarbonyl)-2-Pyrrolidinyl)-3-Hydroxypropionate
Freshly activated zinc powder (0.79 g, 12 mmol, Aldrich) and benzene (50 mL) were placed into a 250-mL two neck round bottom flask under N2. This flask was attached to a Dean-Stark apparatus and 25 mL of benzene was distilled into the trap. Under reflux, a solution of Boc- D-Prolinal (1.90 g, 9.5 mmol) and ethylbromoacetate (2.0 g, 12 mmol, Aldrich) was added dropwise. A crystal of iodine was added to initiate the reaction after half of the dropping solution was added. After complete addition, the mixture was refluxed for 3 hours, cooled, and carefully washed with 0.5 n HCl. The aqueous solution was extracted with ether (25 mL) and the combined organic solution was washed successively with water (30 mL) and saturated NaHCO3 (30 mL), then dried with anhydrous Na2SO4 and concentrated under vacuum. A yellow oil was chromatographed on silica (with hexane/ethyl acetate) to isolate a colourless oil (1.12 g, 41%).

reactant | Boc- D-Prolinal | 9.5 mmol, 1.90 g | C(=O)(OC(C)(C)C)N1[C@@H](C=O)CCC1 | C10H17NO3
reactant | ethylbromoacetate | 12 mmol, 2.0 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | iodine | II | I2
catalyst | zinc | 12 mmol, 0.79 g | [Zn] | Zn
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | Ethyl 3-(1-(Tert-Butoxycarbonyl)-2-Pyrrolidinyl)-3-Hydroxypropionate | 1.12 g, 41% | C(C)(C)(C)OC(=O)N1C(CCC1)C(CC(=O)OCC)O | C14H25NO5
